US04013678
N-Methyl-N1 -(2-mercaptoethyl)thiourea (3.85 g) in dry ethanol (10 ml) was added to a solution of sodium (1.18 g) in dry ethanol (50 ml) and the mixture was stirred at room temperature for 1 hour. 4-Chloromethyl-5-methylimidazole hydrochloride (4.29 g) was added portionwise over one hour to this stirred mixture at room temperature. The mixture was stirred at room temperature for a further hour and heated under reflux for 1/2 hour, cooled and filtered. The filtrate was evaporated to an oily solid which was recrystallised from water to give N-methyl-N1 -[2-((5-methyl-4-imidazolyl)methylthio)ethyl]-thiourea (3.2 g) m.p. 149°-151° C.

reactant | N-Methyl-N1 -(2-mercaptoethyl)thiourea | 3.85 g | CN(C(=S)N)CCS | C4H10N2S2
reactant | sodium | 1.18 g | [Na] | Na
reactant | 4-Chloromethyl-5-methylimidazole hydrochloride | 4.29 g | Cl.ClCC=1N=CNC1C
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-methyl-N1 -[2-((5-methyl-4-imidazolyl)methylthio)ethyl]-thiourea | 3.2 g | CN(C(=S)N)CCSCC=1N=CNC1C | C9H16N4S2
